US06869962B2
7-chloro-2-[(S)-2-(methoxymethyl)pyrrolidine-1-carbonyl]thieno[3,2-b]pyridine
To a mixture of lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate (6.59 g, 30 mmole) in DMF (100 ml) were added diisopropylethylamine, (6 ml, 4.45 g, 34.4 mmole), benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate (16.16 g, 31 mmole) and S-(+)-2-(methoxymethyl)pyrrolidine (3.73 g, 32.4 mmole). The resultant reaction mixture was stirred at ambient temperature for 16 hours. The crude reaction mixture was poured into water (600 ml) and extracted with EtOAc (3×200 ml). The combined organic extracts were washed with water (4×200 ml), dried over Na2SO4 and concentrated, in vacuo, to give 8.8 g of an amber oil, which was purified by silica gel chromatography. Elution with Et2O:EtOAc (67:33) and evaporation of the appropriate fractions gave 6.89 g (74%) of an orange syrup. 1H NMR (DMSO-d6): δ8.62 (1H, d, J=5.0 Hz), 7.88 (1H, s), 7.35 (1H, d, J=5.0 Hz), 4.54-4.47 (1H, m), 3.93-3.75 (2H, m), 3.71-3.55 (2H, m), 3.37 (3H, s), 2.15-1.92 (4H, m). Anal. Calcd. for C14H15N2O2SCl: C, 54.10; H, 4.87; N, 9.01; S, 10.32; Cl, 11.41. Found: C, 53.96;

reactant | lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 30 mmole, 6.59 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | diisopropylethylamine | 34.4 mmole, 6 ml, 4.45 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate | 31 mmole, 16.16 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | water | 600 ml | O | H2O
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 7-chloro-2-[(S)-2-(methoxymethyl)pyrrolidine-1-carbonyl]thieno[3,2-b]pyridine | 8.8 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2[C@@H](CCC2)COC | C14H15ClN2O2S
